US06306860B1
5-[N-(1,1-dimethyl-2-hydroxyethyl)carbamoyl]-2-[1-[3-(ethylamino)-2-pyridyl]piperazin-4-yl-carbonyl]pyridine
By the same procedure as described in the example 1, synthesis was carried out starting with 6-[1-[3-(ethylamino)-2-pyridyl]piperazin-4-yl-carbonyl]nicotinic acid and using 2-amino-2-methyl-1-propanol. And then, the product was recrystallized to give a desired compound.

reactant | 6-[1-[3-(ethylamino)-2-pyridyl]piperazin-4-yl-carbonyl]nicotinic acid | C(C)NC=1C(=NC=CC1)N1CCN(CC1)C(=O)C1=NC=C(C(=O)O)C=C1 | C18H21N5O3
reactant | 2-amino-2-methyl-1-propanol | NC(CO)(C)C | C4H11NO
product | 5-[N-(1,1-dimethyl-2-hydroxyethyl)carbamoyl]-2-[1-[3-(ethylamino)-2-pyridyl]piperazin-4-yl-carbonyl]pyridine | Yield: 70% | CC(CO)(C)NC(=O)C=1C=CC(=NC1)C(=O)N1CCN(CC1)C1=NC=CC=C1NCC | C22H30N6O3
